US08168658B2
To a solution of tert-butyl [2-({4-[2-anilino-1-({[(methylamino)-carbonyl]-amino}methyl)-2-oxoethyl]benzoyl}amino)-4-(3-thienyl)phenyl]carbamate (49 mg, 0.08 mmol) in CH2Cl2 (4 mL) was added trifluoroacetic acid (1 mL), and the reaction was stirred at room temperature for 3 h. Concentration yielded a yellow residue that was dissolved in EtOAc, neutralized with sat. NaHCO3, washed with brine, dried (MgSO4), and evaporated to give N-[2-amino-5-(3-thienyl)-phenyl]-4-[2-anilino-1-({[(methylamino)carbonyl]amino}methyl)-2-oxoethyl]benzamide as a white solid. 1H NMR (DMSO-d6) δ 10.19 (s, 1H), 9.66 (s, 1H), 7.95 (d, J=8.2 Hz, 2H), 7.58 (d, J=7.6 Hz, 2H), 7.54-7.52 (m, 2H), 7.49-7.47 (m, 3H), 7.38 (dd, J=4.8, 1.3 Hz, 1H), 7.33 (dd, J=8.2, 2.1 Hz, 1H), 7.26 (t, J=7.9 Hz, 2H), 7.01 (t, J=7.5 Hz, 1H), 6.78 (d, J=8.5 Hz, 1H), 6.08 (t, J=6.0 Hz, 1H), 5.77 (q, J=4.4 Hz, 1H), 5.00 (s, 2H), 4.01 (dd, J=9.1, 5.6 Hz, 1H), 3.52 (ddd, J=13.5, 8.8, 5.0 Hz, 1H), 3.42 (dt, J=12.8, 6.4 Hz, 1H), 2.51 (d, J=4.7 Hz, 3H). MS (ESI) calcd [M+H]+ 514.1, found 514.1.

reactant | tert-butyl [2-({4-[2-anilino-1-({[(methylamino)-carbonyl]-amino}methyl)-2-oxoethyl]benzoyl}amino)-4-(3-thienyl)phenyl]carbamate | 0.08 mmol, 49 mg | N(C1=CC=CC=C1)C(C(CNC(=O)NC)C1=CC=C(C(=O)NC2=C(C=CC(=C2)C2=CSC=C2)NC(OC(C)(C)C)=O)C=C1)=O | C33H35N5O5S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[2-amino-5-(3-thienyl)-phenyl]-4-[2-anilino-1-({[(methylamino)carbonyl]amino}methyl)-2-oxoethyl]benzamide | NC1=C(C=C(C=C1)C1=CSC=C1)NC(C1=CC=C(C=C1)C(C(=O)NC1=CC=CC=C1)CNC(=O)NC)=O | C28H27N5O3S
